US06414149B1
Step C: 7-Benzyl-2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine
To a suspension of 1,4-diphenylphosphinobutane (1.43 g, 3.35 mmol) in toluene (50 mL) was added bis(benzonitrile)palladium(II) chloride (1.28 g, 3.35 mmol). This mixture was stirred for 25 min at room temperature, then was added to a suspension of 7-benzyl-4-chloro-2-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine (prepared according to the method of Example 86, Step B, 67.0 mmol, assumed) and phenylboronic acid (10.6 g, 87.1 mmol) in a mixture of absolute ethanol (40 mL), toluene (175 mL), and 2 N aqueous sodium carbonate (33.5 mL). This mixture was stirred at reflux for 6.5 h, cooled to room temperature and stirred for ˜2.5 d, then filtered through a pad of Celite. The filtrate was concentrated and the residue was diluted with water and extracted with chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (45→50% ethyl acetate/hexanes) to give 16.5 g (78%, two steps) of the title compound of Example 86, Step C as a yellow oil. 1H NMR (CDCl3, 250 MHz) δ7.57-7.54 (c, 2H), 7.48-7.24 (c, 8H), 3.71 (app s, 4H), 2.85 (t, 2H), 2.71-2.67 (c, 2H), 2.69 (s, 3H); MS (APCI) 316 (MH+).

reactant | 1,4-diphenylphosphinobutane | 3.35 mmol, 1.43 g | C1(=CC=CC=C1)PCCCCPC1=CC=CC=C1 | C16H20P2
reactant | 7-benzyl-4-chloro-2-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)C | C15H16ClN3
reactant | phenylboronic acid | 87.1 mmol, 10.6 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 N, 33.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(benzonitrile)palladium(II) chloride | 3.35 mmol, 1.28 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | toluene | 175 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 7-Benzyl-2-methyl-4-phenyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)C1=CC=CC=C1)C | C21H21N3
